US04105772
When the reaction of 1-methyl-3-nitropyrazole-4-aldehyde and malonic acid monoamide in pyridine is carried out at 70° C., then, as intermediate product, there can be isolated 2-carbamoyl-3-(1-methyl-3-nitro-4-pyrazolyl)-acrylic acid. For decarboxylation, 0.1 g. of this product is stirred in 1 ml. pyridine for 1.5 hours at a bath temperature of 120° C. The reaction mixture is then cooled, ice-cold semi-concentrated hydrochloric acid is added thereto and the precipitated crystals are filtered off with suction, washed with water and dried. There is obtained 0.02 g. 3-(1-methyl-3-nitropyrazolyl)-acrylamide.

reactant | 1-methyl-3-nitropyrazole-4-aldehyde | CN1N=C(C(=C1)C=O)[N+](=O)[O-] | C5H5N3O3
reactant | malonic acid monoamide | C(CC(=O)O)(=O)N | C3H5NO3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-carbamoyl-3-(1-methyl-3-nitro-4-pyrazolyl)-acrylic acid | C(N)(=O)C(C(=O)O)=CC=1C(=NN(C1)C)[N+](=O)[O-] | C8H8N4O5
